US05489583
1.4 ml (18.2 mmol) of dry dimethylformamide were introduced into 50 ml of methylene chloride and, at 0° C. under an inert gas atmosphere, 2.0 ml (28.2 mmol) of oxalyl chloride in 70 ml of methylene chloride were added dropwise. The mixture was stirred at 0° C. for 30 min and then the solvent was removed under reduced pressure. The remaining white salt (highly hygroscopic) was suspended in 120 ml of THF/acetonitrile (1:1) and cooled to -30° C. To this were added dropwise 5.6 g (16 mmol) of 3-[3-(2-naphthalenesulfonylamino)oxazolidin-5-on-4-yl]propionic acid together with 1.07 ml (16 mmol) of pyridine in 30 ml of THF, and the mixture was then stirred at -20° C. for 20 min. The mixture was subsequently cooled to -75° C., 307 mg of cuprous iodide were added, then a solution of 5.6 g (21.8 mmol) of lithium tri-tert-butoxyaluminum hydride in 20 ml of THF was slowly added dropwise, and the mixture was stirred at this temperature for 1 h. Quenching was then carried out at -75° C. with 30 ml of 2N hydrochloric acid and, after the mixture had warmed to room temperature, the solvent was removed under reduced pressure, the residue was taken up in methylene chloride, the Cu salts were removed by filtration, and the organic phase was washed three times with water, dried over magnesium sulfate and concentrated under reduced pressure. 5.4 g of slightly impure 3-[3-(2-naphthalenesulfonylamino)oxazolidin-5-on-4-yl]propanal were obtained which were rapidly processed further because of the low stability.

reactant | dimethylformamide | 18.2 mmol, 1.4 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 28.2 mmol, 2.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-[3-(2-naphthalenesulfonylamino)oxazolidin-5-on-4-yl]propionic acid | 16 mmol, 5.6 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NN1COC(C1CCC(=O)O)=O | C16H16N2O6S
reactant | pyridine | 16 mmol, 1.07 ml | N1=CC=CC=C1 | C5H5N
reactant | lithium tri-tert-butoxyaluminum hydride | 21.8 mmol, 5.6 g | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-[3-(2-naphthalenesulfonylamino)oxazolidin-5-on-4-yl]propanal | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NN1COC(C1CCC=O)=O | C16H16N2O5S
